US07151105B2
Step 3: 4-Bromo-1-bromomethyl-2-ethyl-benzene
To a solution of (4-bromo-2-ethyl-phenyl)-methanol (7.9 g, 36.7 mmol) in anhydrous CHCl3 (122 mL) was added PBr3(4.2 mL, 44.1 mmol). The resulting mixture was stirred at room temperature for 2 hours before it was quenched by the addition of water. The organic layer was washed with NaHCO3, brine and dried over MgSO4. The solvent was removed in vacuo and the residue was filtered through a pad of silica gel with 20% EtOAc in hexanes. The solvent was removed in vacuo to afford the desired product (8.4 g, 83%). 1H NMR (300 MHz, CDCl3): δ 1.29 (t, J=7.5 Hz, 3 H), 2.71–2.78 (m, 2 H), 4.48 (s, 2H), 7.17–7.20 (m, 1H), 7.29–7.32 (m, 1 H), 7.36–7.38 (m, 1H).

reactant | (4-bromo-2-ethyl-phenyl)-methanol | 36.7 mmol, 7.9 g | BrC1=CC(=C(C=C1)CO)CC | C9H11BrO
reactant | PBr3 | 44.1 mmol, 4.2 mL | P(Br)(Br)Br | Br3P
solvent | CHCl3 | 122 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-1-bromomethyl-2-ethyl-benzene | 8.4 g, 83% | BrC1=CC(=C(C=C1)CBr)CC | C9H10Br2
